US05726165
Cyclohexylphosphinic acid, n-butyl ester
The title compound was prepared from cyclohexylphosphinic acid and n-butanol according the the method described in Procedure 43. The compound was used without further purification.

reactant | cyclohexylphosphinic acid | C1(CCCCC1)P(O)=O | C6H13O2P
solvent | n-butanol | C(CCC)O | C4H10O
product | Cyclohexylphosphinic acid, n-butyl ester | C1(CCCCC1)P(OCCCC)=O | C10H21O2P
